US08461209B2
(1) cyclohexanesulfonamide
To a suspension of cyclohexanesulfonic acid sodium salt (2.5 g) in DMF (15 mL) was added thionyl chloride (1.96 mL) under ice-cooling, and the mixture was stirred at room temperature for 29 hr. The reaction mixture was added to a mixture of ice-cooled water (100 mL) and toluene (100 mL), and the mixture was extracted. The organic layer was concentrated under reduced pressure. THF (50 mL) was added to the residue, 28% aqueous ammonia (10 mL) was added dropwise to the solution under ice-cooling, and the mixture was stirred at room temperature for 17 hr. After concentration under reduced pressure, water (100 mL) and ethyl acetate (100 mL) were added to extract the residue. The organic layer was concentrated under reduced pressure to give the title compound (760 mg) as a white solid.

reactant | cyclohexanesulfonic acid sodium salt | 2.5 g | [Na+].C1(CCCCC1)S(=O)(=O)[O-]
reactant | thionyl chloride | 1.96 mL | S(=O)(Cl)Cl | Cl2OS
reactant | water | 100 mL | O | H2O
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
product | cyclohexanesulfonamide | 760 mg | C1(CCCCC1)S(=O)(=O)N | C6H13NO2S
